US05112998
The reaction and workup procedures of Example 164 were repeated except that 100 mg of 3β-benzoyloxy-21,21-dimethoxy-20-methyl-1α-(N-methylcarbamoyl)oxypregna-5,7-diene was used in lieu of 100 mg of 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde to give 65 mg of 21,21-dimethoxy-20-methylpregna-5,7-diene-1α,3βdiol showing the following physical properties.

reactant | 3β-benzoyloxy-21,21-dimethoxy-20-methyl-1α-(N-methylcarbamoyl)oxypregna-5,7-diene | 100 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C(OC)OC)C)[C@]4(CC[C@@H]3[C@]2([C@H](C1)OC(NC)=O)C)C | C33H45NO6
reactant | 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde | 100 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C26H36O7
product | 21,21-dimethoxy-20-methylpregna-5,7-diene-1α,3βdiol | 65 mg | COC(C([C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)C)OC | C24H38O4
